US04877792
6-(5-Amino-2-pyridyloxy)-β-carboline 3-carboxylic Acid Methyl Ester
A suspension of 3.65 g of 6-(5-nitro-2-pyridyloxy)-β-carboline-3-carboxylic acid methyl ester and 0.5 g of Pd-C (10%) in 100 ml of methanol is hydrogenated at room temperature and under normal pressure. After absorption of the stoichiometric amount of hydrogen, the mixture is filtered and concentrated. The residue is crystallized from methanol/diethyl ether, yielding 2.84 g (85%).

reactant | 6-(5-nitro-2-pyridyloxy)-β-carboline-3-carboxylic acid methyl ester | 3.65 g | COC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C18H12N4O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 6-(5-Amino-2-pyridyloxy)-β-carboline 3-carboxylic Acid Methyl Ester | COC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)OC1=NC=C(C=C1)N | C18H14N4O3
